US08487108B2
To a solution of (S)-tert-butyl 2,2-dimethyl-4-((R)-oxepan-3-ylmethyl)oxazolidine-3-carboxylate (160 mg, 0.51 mmol) in MeOH (10 mL) was added p-TSA (30 mg, 0.17 mmol) and stirred at rt for 2 h. TEA (1 mL) was added, followed by 1 drop of Boc2O. The reaction mixture was stirred for another 30 min. The solvent was removed under vacuum to give crude product tert-butyl (S)-1-hydroxy-3-((R)-oxepan-3-yl)propan-2-ylcarbamate, which was used for next step without further purification. MS ESI +ve m/z 296 (M+Na).

reactant | (S)-tert-butyl 2,2-dimethyl-4-((R)-oxepan-3-ylmethyl)oxazolidine-3-carboxylate | 0.51 mmol, 160 mg | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1COCCCC1)C | C17H31NO4
reactant | p-TSA | 0.17 mmol, 30 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Boc2O | 1 drop | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl (S)-1-hydroxy-3-((R)-oxepan-3-yl)propan-2-ylcarbamate | OC[C@H](C[C@@H]1COCCCC1)NC(OC(C)(C)C)=O | C14H27NO4
